US09034900B2
Step 5: N-(2-ethyl-3,4-dihydro-2H-chromen-6-yl)methanesulfonamide
The mixture of the title compounds from Step 4 (600 mg) was suspended in MeOH (6 mL) and sat. NH4Cl solution (2 mL). Fe (810 mg, 14.5 mmol) was added and the mixture was heated to 85° C. for 2.5 h. It was then filtered and extracted with EtOAc. The organic layer was dried and concentrated under reduced pressure to give a crude mixture of 2-ethyl-3,4-dihydro-2H-chromen-6-amine and 2-ethyl-3,4-dihydro-2H-chromen-8-amine. This mixture was dissolved in DCM (10 mL) and TEA (0.8 mL) and methanesulfonyl chloride (400 mg, 3.50 mmol) were added. The mixture was stirred at rt for 1 h. It was then extracted with DCM (45 mL×2), dried over Na2SO4, filtered, concentrated under reduced pressure and purified by column chromatography (PE/EA 50:1 to 20:1 to 10:1) to give the title compound (190 mg, 12% for three steps) as a yellow solid. 1H NMR (300 MHz, CDCl3): δ 6.99-6.80 (m, 2H), 6.78 (d, J=8.7 Hz, 1H), 6.16 (s, 1H), 3.95-3.90 (m, 1H), 2.96 (s, 3H), 2.83-2.76 (m, 2H), 2.04-1.97 (m, 1H), 1.81-1.64 (m, 3H), 1.05 (t, J=7.2 Hz, 3H). LCMS: 273 (M+NH4)+

reactant | NH4Cl | 2 mL | [NH4+].[Cl-]
reactant | 2-ethyl-3,4-dihydro-2H-chromen-6-amine | C(C)C1OC2=CC=C(C=C2CC1)N | C11H15NO
reactant | 2-ethyl-3,4-dihydro-2H-chromen-8-amine | C(C)C1OC2=C(C=CC=C2CC1)N | C11H15NO
reactant | methanesulfonyl chloride | 3.50 mmol, 400 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | MeOH | 6 mL | CO | CH4O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | Fe | 14.5 mmol, 810 mg | [Fe] | Fe
product | N-(2-ethyl-3,4-dihydro-2H-chromen-6-yl)methanesulfonamide | 190 mg, 12% | C(C)C1OC2=CC=C(C=C2CC1)NS(=O)(=O)C | C12H17NO3S
